US08048902B2
Step 2: 2-(4′-{-4-[1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-2-methyl-propionic acid
2-(4′-{4-[1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-2-methyl-propionic acid ethyl ester (0.51 mmol) in Methanol (50 mL) was treated with lithium hydroxide (excess) as well as 1N aqueous LiOH (excess, and the reaction was stirred at room temperature. Analytical LCMS indicated that starting material was still present, so the reaction was stirred at 80° C. overnight. The mixture was neutralized with 1N HCl (20 mL) and extracted with EtOAc. The combined organic layers were washed with water, dried, and concentrated, and the residue was purified by preparative HPLC to give the title compound.

reactant | 2-(4′-{4-[1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-2-methyl-propionic acid ethyl ester | 0.51 mmol | C(C)OC(C(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)F)=O | C31H31FN2O5
reactant | lithium hydroxide | [OH-].[Li+]
reactant | LiOH | 1N | [Li+].[OH-]
reactant | HCl | 1N, 20 mL | Cl | ClH
solvent | Methanol | 50 mL | CO | CH4O
product | 2-(4′-{-4-[1-(2-Fluoro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-biphenyl-4-yl)-2-methyl-propionic acid | FC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C(C(=O)O)(C)C)C | C29H27FN2O5
